US05237021
Analogous to Production Example 8, 8.0 parts of diglycidyl hexahydrophthalate was reacted with 4.5 parts of ethyl carbamate in the presence of 0.3 parts of N, N-dimethylbenzylamine and 0.3 parts of dibutyltin dilaurate. 8.2 parts (80% of theory) of bis(2-oxo-1, 3-oxazolin-5-ylmethyl) hexahydrophthalate was obtained as pale yellow solid.

reactant | diglycidyl hexahydrophthalate | C(C1C(C(=O)OCC2CO2)CCCC1)(=O)OCC1CO1 | C14H20O6
reactant | ethyl carbamate | C(N)(OCC)=O | C3H7NO2
reactant | N, N-dimethylbenzylamine | CN(C)CC1=CC=CC=C1 | C9H13N
reactant | dibutyltin dilaurate | C(CCCCCCCCCCC)(=O)[O-].C(CCCCCCCCCCC)(=O)[O-].C(CCC)[Sn+2]CCCC
product | bis(2-oxo-1, 3-oxazolin-5-ylmethyl) hexahydrophthalate | 80% | C(C1C(C(=O)OCC2C=NC(O2)=O)CCCC1)(=O)OCC1C=NC(O1)=O | C16H18N2O8
